Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left sided sensory changes, left facial droop, transient word 
finding difficulties
 
Major Surgical or Invasive Procedure:
Diagnostic Cerebral Angiogram 

 
History of Present Illness:
NEUROLOGY STROKE ADMISSION/CONSULT NOTE

Neurology at bedside after Code Stroke activation within: 1 mins
Time/Date the patient was last known well: ___

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale Score: 3

t-PA administered: 
[x] No - Reason t-PA was not given or considered: outside time
window

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: Patient taken to
thrombectomy suite and evaluated under INR, carotid dissection
visualized without evidence of large thrombus or interruption of
blood flow

NIHSS performed within 6 hours of presentation at:  6:45
time/date ___
NIHSS Total: 3
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 2
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

 
REASON FOR CONSULTATION: left facial droop, left sensory loss

History is obtained from wife

HPI: 
Mr. ___ is a ___ yo ___ speaking male with a past 
medical
history of migraines who presented to ___ with
left facial droop and left body numbness. Last known normal ___
on ___ when he had sudden onset of left hand feeling different 
and confusion while driving. He felt like he could not park his
car. His wife noted that his left face appeared to be drooping
and they went to ___. ___ showed hypodensity in
right M2/M3 region. He was transferred to ___ ICU where a code
stroke was called at 2AM when patient developed new left leg
numbness.  CTA H/N completed at this time and dissection of 
right
carotid from bifurcation to petrous segment with thrombus was
identified as well as non-occlusive M1 thrombus. He was given
ASA, Plavix 75, Lipitor and subqh and transferred to ___ for
consideration of thrombectomy.

Of note, for the past 3 days patient has had a headache 
different
than his normal migraines. This was preceded by right sided neck
pain which started on ___. Wife has been massaging neck to
help it feel better. Headache is right temporal pain and 
"harder"
than his typical headaches. 

Migraines normally on his right temporal region but feel
different. 

No lifting weights, chiropractor, or neck manipulation aside 
from
massage from wife as above. Wife dose note that Mr. ___ 
was
playing with his kids on ___ and was carrying them all on 
his
shoulders (they are ages ___, ___, and ___). 

Denies other Neurologic symptoms other than above. Denies recent
illness, N/V/F/C.

ROS: 

On neurological review of systems, the patient has headache, but
denies confusion, difficulties producing or comprehending 
speech,
loss of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness but has numbness. No bowel or bladder 
incontinence
or retention. Denies difficulty with gait.

On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
- Migraines
 
Social History:
___
Family History:
Denies family history of stroke, bleeding/clotting disorders. No
consanguinity with wife. 

 
Physical Exam:
ON ADMISSION:
===============
Vitals: BP 180/112

General: Awake, cooperative, NAD.

HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

 
Neurologic:
-Mental Status: Alert, oriented x 3. Speech fluent, no 
dysarthria
per wife. Follows commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 

V: Facial sensation with decreased sensation to light touch left
V1-V3, unable to quantify how much
VII: left NLFF, decreased activation of left mouth
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.

XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
RUE: Holds antigravity for 10 seconds without drift
RLE: Holds antigravity for 5 seconds without drift
LUE: Holds antigravity for 10 seconds without drift
LLE: Holds antigravity for 5 seconds without drift

-Sensory: Does not feel light touch or pinch in left upper
extremity and left lower extremity.

-Reflexes: deferred as patient going to ___ suite
-Coordination: No intention tremor. Normal finger-tap
bilaterally. 
-Gait: deferred as patient going to ___ suite

DAY OF DISCHARGE:
======================
VITALS:
24 HR Data (last updated ___ @ 402)
    Temp: 98.3 (Tm 99.1), BP: 135/83 (130-151/83-88), HR: 70
(65-77), RR: 16 (___), O2 sat: 98% (97-100), O2 delivery: RA  

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema. Area of puncture for angiogram clean 
without evidence of infection or hematoma
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 4. Speech fluent, no 
dysarthria. Follows commands. Naming high and low frequency 
objects intact. Reading and repetition intact. No evidence of 
apraxia. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. Visual fields full to confrontation

V: Facial sensation intact throughout
VII: left NLFF, decreased activation of left mouth
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.

XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. Left hand cups with
parietal drift.
  Delt Tri Bi WrE FEx IP Ham Quad TA Gas
L  5    ___   ___   5    5  5
R  5    ___   ___   5    5  5

-Sensory: intact to gross touch throughout. No DSS

-Gait: Stands without assist. Narrow based steady gait

 

 
 
Pertinent Results:
LABORATORY:
===============
___ 
WBC-8.3 RBC-4.82 Hgb-13.4* Hct-41.4 MCV-86 MCH-27.8 MCHC-32.4 
RDW-12.7 RDWSD-39.5 Plt ___ PTT-68.6* ___
ALT-28 AST-21 AlkPhos-61 TotBili-0.7
cTropnT-<0.01
Calcium-9.2 Phos-3.4 Mg-2.0

___ 
Glucose-104* UreaN-10 Creat-0.8 Na-142 K-4.3 Cl-105 HCO3-26 
AnGap-11

Stroke Risk Factors:
%HbA1c-5.4 eAG-108
Triglyc-107 HDL-41 CHOL/HD-3.1 LDLcalc-67
TSH-3.0

CRP-15.0*
ESR: PENDING

DIAGNOSTICS:
================
___ CTA H/N:
1. Abrupt lack of opacification of the right ICA with distal 
reconstitution at the distal petrous segment with the remaining 
ICA being narrowed in lumen and attenuated through the cavernous 
sinus, similar to prior. 
2. Previously seen thrombus in the right M2 is no longer seen 
and the vessel is now patent. 
3. Reconstructed the flow through the distal M2. 
4. Stenosis of the right anterior communicating artery is 
unchanged. 
Final read to follow. 

___ TTE:
TTE: LVEF 70%, no cardioemobolic source of infarct identified

___ MR Brain:
IMPRESSION: 
1. Subacute infarct involving the right anterior temporal lobe, 
right 
posterior insular region with extension into the right frontal 
and parietal lobes. 
2. Small amount of susceptibility artifact in the right parietal 
lobe most 
likely represents small petechial hemorrhages. 
3. Loss of normal flow void in the visualized right ICA.  
Preserved flow voids in the remaining major vessels, including 
the right anterior circulation. 

___ CT Perfusion:
IMPRESSION: 
1. Acute infarction involving the right anterior temporal lobe, 
posterior 
right insular region and right frontal lobe/corona radiata. 
2. Greater than 50% penumbra involving the right MCA infarct: 
CBF <30% volume: 32 mL Tmax >6.0 s volumen: 77 mL, mismatch 
volume: 45 mL with mismatch ratio: 2.4 

___ Carotid Duplex:
IMPRESSION:  Right cervical ICA dissection with occlusion of 
inferior division of R middle cerebral artery. Left fetal origin 
posterior communicating artery 

  

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with history of migraines who 
presented to an OSH with several days of right neck pain, 
headache and new left hemibody numbness and left facial droop. 
Imaging from OSH showed right carotid dissection with right MCA 
territory infarct. 

# Right MCA ischemic infarct
# Right ICA dissection with thrombus
# Right M2 Cutoff
Upon arrival to ___, he underwent angiogram which revealed a 
right M2 clot as well as right ICA dissection and possible 
thrombus. However given low ___ of 3, thrombectomy was not 
pursued as pushing a catheter through his right ICA dissection 
could worsen deficits if thrombi dislodged. He was started on a 
heparin gtt to bridge to coumadin, but given rapidly improving 
symptoms and lack of acute rehabilitation needs, he was switched 
to a Lovenox bridge to coumadin upon discharge. Goal INR ___. 
Apixaban was considered for anticoagulation, but this medication 
was not financially possible for the patient. CTA on ___ showed 
abrupt lack of blood flow of right ICA with distal 
reconstitution at the distal petrous segment. Remaining right 
ICA narrowed in lumen and 
attenuated through the cavernous sinus, similar to prior. Also 
revealed now reconstructed flow through the right distal M2. A 
CTA H/N should repeated in ___ months, and until then 
anticoagulation should be continued.

Currently the etiology of his infarct is suspected mechanical 
dissection and subsequent embolus given patient developed neck 
pain after carrying his 3 children on his back prior to 
presentation. Other risk factors include LDL 67, A1c of 5.4. TTE 
revealed LVEF 70%, no cardioemobolic source of infarct 
identified. He has been monitored on telemetry without evidence 
of atrial fibrillation. As etiology of infarct highly likely 
from carotid dissection, no ziopatch will be needed upon 
discharge. He was allowed permissive blood pressure acutely 
before lisinopril 5 mg daily was added as blood pressure 
consistently 150-160s systolic. His blood pressure goal from a 
stroke perspective should be systolic pressure between 130 and 
150.

TRANSITIONAL ISSUES:
=====================
[] Neurology
- Lovenox bridging to coumadin
- Repeat CTA H/N in ___ months to determine duration of 
anticoagulation
[] Primary Care
- Please stop Lovenox when INR therapeutic (___). 
** Needs an INR check at his ___ appointment with ___ 
___ **
- Monitoring of hypertension, blood pressure primarily 150-160s 
systolic before initiation of lisinopril. SBP goal from stroke 
perspective between 130-150.

=====================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 67) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [x ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ x] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral Q6H:PRN 
2. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC BID 
RX *enoxaparin 60 mg/0.6 mL 1 syringe subcutaneous every twelve 
(12) hours Disp #*14 Syringe Refills:*0 
2.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  Vitamin D 1000 UNIT PO DAILY 
Please take as prior to hospital admission  
5.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral Q6H:PRN migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stroke
Carotid artery dissection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of word finding 
difficulties, left sided numbness, and left facial droop 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

1. A dissection in one of the arteries sending blood to your 
brain
2. High blood pressure

We are changing your medications as follows:  
1. You will need to take a blood thinner called warfarin 
(coumadin) every day for the next ___ months. This medication 
needs to be monitored closely by blood draws to check an INR. 
Your INR needs to be between ___, this is known as your goal 
INR. Until the warfarin builds up in your system, you will need 
another blood thinner, known as Lovenox to protect your from 
further stroke. This is a twice daily shot into your stomach. 
2. You were started on lisinopril, a medication to help control 
your blood pressure, and should continue this medication.

** Your primary care physician needs to draw blood work 
tomorrow, ___, at your appointment to check your INR. Your 
primary care physician ___ let you know when it is safe to stop 
Lovenox shots and just use warfarin as your blood thinner.

** You will need to take your blood thinner for at least ___ 
months. At your stroke appointment, you will repeat imaging of 
the vessels in your head and neck to help decide how long this 
medication will be continued.

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___